US04633024
A 50% aqueous solution of potassium hydroxide and dipotassium 4,4'-biphenyldisulfonate were sent to a mixing tank 1 at a rate of 896 kg/hr and 390 kg/hr, respectively, and mixed with stirring. A hydrogenated triphenyl mixture was added to the resulting mixture in a dispersing tank 2 at a rate of 2900 kg/hr to disperse them. The dispersed mixture was dehydrated in a dehydrating tank 3, and then sent to a reservoir. From the reservoir 4, the dehydrated mixture of dipotassium 4,4'-biphenyldisulfonate, potassium hydroxide and hydrogenated triphenyl mixture was sent to a reaction tank 5 at a rate of 4190 kg/hr, and continuously reacted at 310° C. with a residence time of 6 hours in a nitrogen stream. After the reaction, the mixture was cooled by a heat exchanger 6, and sent to a water mixing tank 7 where it was mixed with 2000 liters/hr of water. Then, in a separating tank 8, the reaction medium layer was separated, and the aqueous layer was mixed with 45 kg/hr of activated tank in a mixing tank 9. The activated carbon was removed in a filtration device 10, and the residue was precipitated with dilute sulfuric acid in an acid precipitating tank 11. By separation in a centrifugal separator 12, 178 kg (yield 95.7%) of 4,4'-biphenyl was obtained hourly.

reactant | potassium hydroxide | [OH-].[K+]
reactant | dipotassium 4,4'-biphenyldisulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C1=CC=C(C=C1)S(=O)(=O)[O-].[K+].[K+]
solvent | water | O | H2O
product | 4,4'-biphenyl | 178 kg, yield 95.7% | C1=CC=C(C=C1)C1=CC=CC=C1 | C12H10
